US07375101B2
N-[7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[4-(diethylamino)-2-methylphenyl]-thiourea
As illustrated in the scheme above, a solution of 7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-3-isothiocyanato-1-methyl-2H-1,4-benzodiazepin-2-one (0.069 g, 0.146 mmol) and N4,N4-diethyl-2-methyl-1,4benzenediamine (0.029 g, 0.161 mmol) in (CH2Cl)2 (5.0 mL) was heated at 70° C. for 16 h. The reaction was cooled and concentrated in vacuo, and the residue was purified by silica gel column chromatography (7:3 CH2Cl2:EtOAc) to provide the title compound as a light orange solid (0.074 g, 87%). 1H-NMR (CDCl3): δ 8.64 (s, 1H), 7.52 (dd, J=2.5 Hz, J=8.8 Hz, 1H), 7.40 (s, 1H), 7.35 (d, J=7.8 Hz, 1H), 7.32 (d, J=9.0 Hz, 1H), 7.20 (d, J=2.2 Hz, 1H), 7.17-7.13 (m, 1H), 6.54-6.51 (m, 2H), 6.06 (d, J=8.0 Hz, 1H), 4.05 (s, 3H), 3.74 (s, 3H), 3.42 (s, 3H), 3.40-3.27 (m, 4H), 2.30 (s, 3H), 1.17 (t, J=7.1 Hz, 6H). HRMS calculated for (C28H32ClN7O3S+H) (M+H)+: 582.2054. Found (ESI): 582.2076.

reactant | 7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-3-isothiocyanato-1-methyl-2H-1,4-benzodiazepin-2-one | 0.146 mmol, 0.069 g | ClC=1C=CC2=C(C(=NC(C(N2C)=O)N=C=S)C=2C(=NC(=NC2)OC)OC)C1 | C17H14ClN5O3S
reactant | N4,N4-diethyl-2-methyl-1,4benzenediamine | 0.161 mmol, 0.029 g | C(C)N(C1=CC(=C(C=C1)N)C)CC | C11H18N2
product | N-[7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[4-(diethylamino)-2-methylphenyl]-thiourea | 0.074 g, 87% | ClC=1C=CC2=C(C(=NC(C(N2C)=O)NC(=S)NC2=C(C=C(C=C2)N(CC)CC)C)C=2C(=NC(=NC2)OC)OC)C1 | C28H32ClN7O3S
